US04064244
a. 2-piperazinyl-4-butyl-thiazole
By using the process described in Example 1, but replacing 4-methyl-1-piperazinyl-thiocarboxamide by an equivalent amount of 1-piperazinyl-thiocarboxamide, 2-piperazinyl-4-tert.buty-thiazole dihydrochloride, having a M.P. of 190°-196°, is obtained. The free base is obtained therefrom by treatment with an aqueous sodium hydroxide solution.

reactant | 4-methyl-1-piperazinyl-thiocarboxamide | CN1CCN(CC1)C(=S)N | C6H13N3S
reactant | 1-piperazinyl-thiocarboxamide | N1(CCNCC1)C(=S)N | C5H11N3S
reactant | 2-piperazinyl-4-tert.buty-thiazole dihydrochloride | Cl.Cl.N1(CCNCC1)C=1SC=C(N1)C(C)(C)C
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-piperazinyl-4-butyl-thiazole | N1(CCNCC1)C=1SC=C(N1)CCCC | C11H19N3S
